US05006561
5-Amino-2-[N-(2-{4-aminophenoxy}ethyl)-N-methylamino]indane
A solution of 2-[N-methyl-N-(2-{4-nitrophenoxy}ethyl)amino]-5-nitroindane (0.3 g) in ethyl acetate (30 ml) containing 5% Pd/C (0.03 g) was stirred under a hydrogen atmosphere [206.8 kPa (30 p.s.i.)] for 2 hours at room temperature. The catalyst was then removed by filtration and the filtrate evaporated in vacuo to afford the title compound as a gum, yield 0.25 g, which was used directly without further purification.

reactant | 2-[N-methyl-N-(2-{4-nitrophenoxy}ethyl)amino]-5-nitroindane | 0.3 g | CN(CCOC1=CC=C(C=C1)[N+](=O)[O-])C1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C18H19N3O5
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.03 g | [Pd] | Pd
product | 5-Amino-2-[N-(2-{4-aminophenoxy}ethyl)-N-methylamino]indane | NC=1C=C2CC(CC2=CC1)N(C)CCOC1=CC=C(C=C1)N | C18H23N3O
